US05098462
At 0°, a solution of anhydrous ferric chloride (2.7 g, 17.0 mmol) in 50 ml of nitromethane is added portionwise with stirring over a period of 5 hours to a mixture of 3-bromofuran (25.0 g, 170.0 mmol) and acetic anhydride (20.4 g, 200.0 mmol) in 50 ml of nitromethane. After addition is completed, the resulting mixture is stirred at RT for 17 hours and is then evaporated in vacuo. The residue is taken up in 200 ml of diethyl ether, treated with 3.0 g of activated charcoal and filtered. The filtrate is washed with 5% sodium bicarbonate and dried and the solvent is removed by rotoevaporation to give, after purification, 2-acetyl-3-bromofuran. A well-stirred mixture of 2-acetyl-3-bromofuran (13.7 g, 72.0 mmol), ethylene glycol (5.9 g, 94.0 mmol), p-toluenesulfonic acid (p-TSOH; 20 mg) and benzene (50 ml) is refluxed for 9 hours, after which additional ethylene glycol (1.8 g, 29.0 mmol) and p-TSOH (5 mg) is added and the refluxing is continued a further 16 hours. The reaction mixture is then washed with sat. sodium bicarbonate and with water and is dried. The solvent is removed by rotoevaporation to give 2-(3-bromo-2-furyl)-2-methyl-1,3-dioxolane. To a solution of 1.6M butyllithium in hexane (38 ml) and dry diethylether (40 ml), under N2, is added dropwise with stirring a solution of the above dioxolane (11.18 g, 48.0 mmol) in 40 ml of ether, keeping the temperature below -68°. After addition is completed, the mixture is stirred for 30 min. at -70°, and then a slurry of CO2 (50.0 g) in 100 ml of dry diethyl ether is added. The mixture is kept at -65° for 15 min. and is then allowed to warm to 10°. Water is added, followed by 10% sodium carbonate. The phases are separated and the organic phase is extracted. The combined aqueous phases are acidified with conc. HCl and extracted with ether. The organic phases are combined and dried and the solvent is removed by rotoevaporation. The resulting product is suspended in 5% HCl (85 ml) and stirred at RT for 2 hours, then extracted with ether and the combined ether phases are dried and evaporated to dryness. The crude product is purified to give 2-acetyl-3-furancarboxylic acid.

reactant | 3-bromofuran | 170.0 mmol, 25.0 g | BrC1=COC=C1 | C4H3BrO
reactant | acetic anhydride | 200.0 mmol, 20.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-acetyl-3-bromofuran | 72.0 mmol, 13.7 g | C(C)(=O)C=1OC=CC1Br | C6H5BrO2
reactant | ethylene glycol | 94.0 mmol, 5.9 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 29.0 mmol, 1.8 g | C(CO)O | C2H6O2
solvent | nitromethane | 50 ml | [N+](=O)([O-])C | CH3NO2
solvent | nitromethane | 50 ml | [N+](=O)([O-])C | CH3NO2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-(3-bromo-2-furyl)-2-methyl-1,3-dioxolane | BrC1=C(OC=C1)C1(OCCO1)C | C8H9BrO3
